US08703805B2
A solution of 5-(4-bromophenyl)-1-(2-chloroethyl)-3-(trifluoromethyl)-1H-pyrazole (200 mg, 0.56 mmol) and morpholine (0.245 mL, 5 equiv) in acetonitrile (2 mL) was stirred overnight at 90° C. Evaporation of solvent gave of 4-(2-(5-(4-bromophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)ethyl)morpholine. MS (ES): 404 [M+H]+.

reactant | 5-(4-bromophenyl)-1-(2-chloroethyl)-3-(trifluoromethyl)-1H-pyrazole | 0.56 mmol, 200 mg | BrC1=CC=C(C=C1)C1=CC(=NN1CCCl)C(F)(F)F | C12H9BrClF3N2
reactant | morpholine | 0.245 mL, 5 equiv | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-(2-(5-(4-bromophenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)ethyl)morpholine | BrC1=CC=C(C=C1)C1=CC(=NN1CCN1CCOCC1)C(F)(F)F | C16H17BrF3N3O
